US06262832B1
Synthesis of Octamethylferrocene
25.00 g (204.6 mmol) of 1,2,4,5-tetramethyl-cyclopenta-1,3-diene was charged into a reaction vessel and dissolved in approximately 200 ml of hexane while under positive nitrogen pressure. The solution was cooled with an ice bath to approximately 0 degrees centigrade, whereupon 84 ml (210 mmol) of 2.5M n-butyllithium was charged into the reaction vessel via syringe. Next, the reaction mixture was allowed to warm to room temperature while being agitated overnight. In a separate vessel, 1.95 g (35 mmol) of Fe in approximately 100 ml of tetrahydrofuran (THF) was purged with nitrogen and then cooled to 0 degrees centigrade. 11.56 g (70 mmol) of FeCl3 was charged into the Fe/THF mixture in 3 equal portions, whereupon the mixture was heated to reflux for approximately 2 hours under a nitrogen atmosphere. The FeCl2-2THF was then cooled to room temperature, and transferred to the LiMe4Cp suspension via cannula. The complete mixture was heated to reflux for 2 hours. After cooling, the reaction was quenched by the addition of approximately 300 ml of water and a small amount of zinc powder. The reaction mixture was charged into a separatory funnel, whereby the organic layer was isolated and collected. The aqueous layer was extracted with Et2O. Next, the organic layers were combined, washed with a saturated brine solution, dried over MgSO4, and filtered. The solvents were then removed by rotary evaporation to give an orange solid which was washed with MeOH and collected on a vacuum frit. Additional product was recovered by reducing the volume of the MeOH solution and cooling in a freezer overnight. The total yield was approximately 22 g of octamethylferrocene.

reactant | 1,2,4,5-tetramethyl-cyclopenta-1,3-diene | 204.6 mmol, 25.00 g | CC1=C(C=C(C1C)C)C | C9H14
reactant | n-butyllithium | 210 mmol, 2.5M, 84 ml | C(CCC)[Li]
reactant | Fe | 35 mmol, 1.95 g | [Fe] | Fe
reactant | Fe THF | [Fe].O1CCCC1
solvent | hexane | approximately 200 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | approximately 100 ml | O1CCCC1 | C4H8O
product | Octamethylferrocene | CC1=C(C(=C([CH-]1)C)C)C.[CH-]1C(=C(C(=C1C)C)C)C.[Fe+2] | InChI=1S/2C9H13.Fe/c2*1-6-5-7(2)9(4)8(6)3;/h2*5H,1-4H3;/q2*-1;+2
